US05114966
2-(RS)-(2-iodoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane (IRFI 066)
4.4 g of iodine are added to a mixture of 3.1 g of 2-(RS)-2-hydroxyethyl-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane, 5.5 g of triphenylphosphine and 1.4 g of imidazol in 60 ml of toluene. The mixture is stirred for 3 hours at 60° C. The imidazole*HBr is then filtered out and the filtrate is evaporated. After purification by a column chromatography (SiO2), 3.0 g of white solid are obtained. m.p. 96°-97° C.; IR (KBr): 3403 (νOH), 1195 cm-1 (w CH2I); 1H-NMR (CCl4): δ4.9-4.4 (1H,m), 4.0 (1H,s), 3.2 (2H,t), 3.0-2.5 (2H,m), 2.2 (2H,m), 2.1 (9H,s).

reactant | iodine | 4.4 g | II | I2
reactant | 2-(RS)-2-hydroxyethyl-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane | 3.1 g | OCCC1OC2=C(C1)C(=C(C(=C2C)C)O)C | C13H18O3
reactant | triphenylphosphine | 5.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazol | 1.4 g | N1C=NC=C1 | C3H4N2
reactant | KBr | [K+].[Br-]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(RS)-(2-iodoethyl)-2,3-dihydro-5-hydroxy-4,6,7-trimethylbenzofurane | ICCC1OC2=C(C1)C(=C(C(=C2C)C)O)C | C13H17IO2
